US06057311
i. 1-tert-Butyloxycarbonylmethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
A suspension of 1-tert-butyloxycarbonylmethyl-4-benzyloxycarbonyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine(1.52 g, 3.48 mmol), and 10% palladium on charcoal (0.2 g) in methanol (20 ml) was stirred under a hydrogen atmosphere for 4 hours. The reaction mixture was filtered through a pad of celite and the filtrate evaporated to give the crude product, which was purified by flash chromatography on silica gel with methanol-DCM(1:12) as eluant. (996 mg, 95%)

reactant | 1-tert-butyloxycarbonylmethyl-4-benzyloxycarbonyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | 3.48 mmol, 1.52 g | C(C)(C)(C)OC(=O)CN1C(CN(CCCC2=C1C=CC=C2)C(=O)OCC2=CC=CC=C2)=O | C25H30N2O5
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 1-tert-Butyloxycarbonylmethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C)(C)(C)OC(=O)CN1C(CNCCCC2=C1C=CC=C2)=O | C17H24N2O3
